US06620829B2
Synthesis of (Trans)Cyano-(3,4-dimethyl-cyclopentylidene)-acetic Acid Ethyl Ester (2)
Trans-3,4-dimethyl cyclopentanone (2.91 g, 25.94 mmol), ethyl cyanoacetate (2.93 g, 25.93 mmol), ammonium acetate (0.20 g, 2.60 mmol), and acetic acid (0.31 g, 5.17 mmol) were heated together in refluxing toluene under a Dean-Stark trap for 24 hours. After cooling and filtration through kieselguhr, evaporation gave the required product as an off-white solid (5.0 g, 93%).

reactant | Trans-3,4-dimethyl cyclopentanone | 25.94 mmol, 2.91 g | C[C@@H]1CC(C[C@H]1C)=O | C7H12O
reactant | ethyl cyanoacetate | 25.93 mmol, 2.93 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 2.60 mmol, 0.20 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 5.17 mmol, 0.31 g | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (Trans)Cyano-(3,4-dimethyl-cyclopentylidene)-acetic Acid Ethyl Ester | 5.0 g, 93% | C(C)OC(C(=C1C[C@H]([C@@H](C1)C)C)C#N)=O | C12H17NO2
